US06835732B2
4-Methoxymethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
4-Chloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide (200 mg, 0.48 mmol) were suspended in THF (5 ml) and sodium methoxide (0.27 ml 5.4 M in MeOH, 1.4 mmol) were added at 0° C. The mixture was stirred at ambient temperature for 18 h. Workup and purification as described in the general procedure C afforded the title compound as light yellow solid (41%), MS: m/e=414 (M+H+).

reactant | 4-Chloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 0.48 mmol, 200 mg | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C20H20ClN3O3S
reactant | sodium methoxide | 1.4 mmol, 5.4 M, 0.27 ml | C[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-Methoxymethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 41% | COCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C21H23N3O4S
